US05510520
0.934 g (4.40 mmol) of (1S,2S)-(-)-1,2-diphenylethylenediamine of α!D20 =-103.1° (c 1.00, MeOH ) and 1.00 g (4.40 mmol) of dl-1-hydroxy-2-hydroxyimino-1,2-diphenylethane were added to 3 ml of benzene and then heated and stirred, and the solution was cooled to room temperature. Afterward, the precipitated crystals were collected by filtration and then recrystallized from 2 ml of benzene once to obtain 0.250 g of (1S,2S)-(-)-1,2-diphenylethylenediamine·1-hydroxy-2-hydroxyimino-1,2-diphenylethane. Physical properties of the product are as follows.

reactant | (1S,2S)-(-)-1,2-diphenylethylenediamine | 4.40 mmol, 0.934 g | C1(=CC=CC=C1)[C@@H]([C@@H](N)C1=CC=CC=C1)N | C14H16N2
reactant | MeOH | CO | CH4O
reactant | 1-hydroxy-2-hydroxyimino-1,2-diphenylethane | OC(C(C1=CC=CC=C1)=NO)C1=CC=CC=C1 | C14H13NO2
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | (1S,2S)-(-)-1,2-diphenylethylenediamine·1-hydroxy-2-hydroxyimino-1,2-diphenylethane | 0.250 g | C1(=CC=CC=C1)[C@@H]([C@@H](N)C1=CC=CC=C1)N.OC(C(C1=CC=CC=C1)=NO)C1=CC=CC=C1 | InChI=1S/C14H16N2.C14H13NO2/c15-13(11-7-3-1-4-8-11)14(16)12-9-5-2-6-10-12;16-14(12-9-5-2-6-10-12)13(15-17)11-7-3-1-4-8-11/h1-10,13-14H,15-16H2;1-10,14,16-17H/t13-,14-;/m0./s1
